US08461328B2
A mixture of 1-(2,4-dimethoxy-benzyl)-piperidine-2,4-dione (2.63 g, 10.0 mmol), benzhydrylamine (1.72 mL, 10.0 mmol) and sodium sulfate (5 g) in acetic acid (2.29 mL, 40.0 mmol) and DCM (40 mL) was stirred at ambient temperature for 6 hours before the addition of sodium triacetoxyborohydride (3.18 g, 15.0 mmol). The resulting mixture was stirred for 18 hours then filtered through Celite®, the filtrate washed with brine then dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by column chromatography on silica gel (gradient: 0 to 2.5% methanol in DCM). The residue was re-dissolved in acetic acid (300 μL) and methanol (30 mL) and treated with sodium cyanoborohydride (1.46 g, 23.2 mmol) and the resulting mixture stirred at ambient temperature for 18 hours. The mixture was concentrated under vacuum, the residue dissolved in DCM and washed with saturated aqueous sodium bicarbonate. The organic phase was dried over sodium sulfate and concentrated under vacuum to afford 3.3 g (77%) of racemic 4-(benzhydryl-amino)-1-(2,4-dimethoxy-benzyl)-piperidin-2-one as an oil. LCMS (Method H, ESI): RT=2.47 min, m+H=431.3; 1H NMR (400 MHz, CDCl3) δ: 7.31 (m, 13H), 6.41 (s, 2H), 4.64 (d, 1H), 4.40 (d, 1H), 3.78 (s, 3H), 3.74 (s, 3H), 3.32 (m, 1H), 3.13-3.05 (m, 1H), 2.95 (m, 1H), 2.72 (dd, 1H), 2.30 (dd, 1H), 2.02-1.92 (m, 1H), 1.74-1.57 (m, 1H).

reactant | 1-(2,4-dimethoxy-benzyl)-piperidine-2,4-dione | 10.0 mmol, 2.63 g | COC1=C(CN2C(CC(CC2)=O)=O)C=CC(=C1)OC | C14H17NO4
reactant | benzhydrylamine | 10.0 mmol, 1.72 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | sodium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 40.0 mmol, 2.29 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 15.0 mmol, 3.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium cyanoborohydride | 23.2 mmol, 1.46 g | C(#N)[BH3-].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 30 mL | CO | CH4O
product | racemic 4-(benzhydryl-amino)-1-(2,4-dimethoxy-benzyl)-piperidin-2-one | 3.3 g, 77% | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1CC(N(CC1)CC1=C(C=C(C=C1)OC)OC)=O | C27H30N2O3
